2156-09-16 05:56:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 EKG - At [**2156-9-15**] 10:30 PM
 BLOOD CULTURED - At [**2156-9-16**] 05:00 AM
 BLOOD CULTURED - At [**2156-9-16**] 05:10 AM
   GIB: Since admitted to CCU, pt has had two melenotic stools (total 5
   since yesterday), pt has received total of 4 units pRBCs with a recent
   2hr-post HCT of 28, tachycardia decreased to low 100's, O2 dropped to
   low 90
s requiring 2LNC O2; discussed with GI-fellow-rec: HCT at 7am
   and if same or lower give 1unit pRBC and if higher, do not give unit
   with possible EGD around 9am.
   Temp: 100.4 as Tmax ON, diaphoresis this am, C/o SOB at rest with
   non-productive cough
   (Pre-admission intake: 1.875L)
   Allergies:
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Hives;
   Aspirin
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Pantoprazole (Protonix) - 8 mg/hour
   Other ICU medications:
   Morphine Sulfate - [**2156-9-16**] 03:15 AM
   Other medications:
   Changes to medical and family history:
   ESRD [**1-17**] to HTN or HIV; s/p cadaveric renal transplant on [**2156-5-21**], s/p
   acute rejection on [**5-28**] and [**2156-6-17**], FSGS [**2156-6-17**]
   h/o PUD
   h/o Grade 4 internal hemorrhoids s/p BRBPR with BM
s x 1yr
   SVC Sx x2 episodes: CT [**6-22**]: patent SVC with narrowed L BCl stent with
   ?non-occ thrombus in stent, small caliber of L IJ near jxn with L SCV
   LUE Swelling: [**2-21**]-LUE swelling, [**3-3**] fistulogram showed occ stenosis
   of L BCV
stent from SVC to LSCV with angioplasty on [**2156-6-29**]; no DVT on
   US of LUE in [**6-22**]
   RUE: PICC line placed during renal transplant [**2156-5-21**]
 removed in [**6-22**]
   with non-occ thrombus in R Ax/SCL V
   Review of systems is unchanged from admission except as noted below
   Review of systems: denies CP, abdominal pain, nausea, dizziness,
   lightheadedness, chills.
   Flowsheet Data as of  [**2156-9-16**] 05:55 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.3
   Tcurrent: 36.9
C (98.4
   HR: 106 (106 - 123) bpm
   BP: 158/78(96) {158/75(92) - 222/100(118)} mmHg
   RR: 17 (12 - 22) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 61 kg (admission): 61 kg
   Height: 69 Inch
           Total In:
                                                                  2,357 mL
                                                                    808 mL
   PO:
           TF:
   IVF:
                                                                    205 mL
                                                                     58 mL
   Blood products:
                                                                    277 mL
                                                                    750 mL
   Total out:
                                                                    625 mL
                                                                    250 mL
   Urine:
                                                                    225 mL
                                                                    250 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,732 mL
                                                                    558 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula 2L
   SpO2: 100%
   ABG: ////
   Physical Examination
   Vitals
 98.4   106    158/78    17    96% 2LNC
   GENERAL: Pale and diaphoretic, depressed, did not speak, NAD.
   HEENT: MMM, EOMI, PERRL
   NECK: No bruits or palpable thyroid
   CARDIAC:  Regular tachycardia, no MMG
   LUNG:  Faint crackles at bases b/l with superimposed transmitted upper
   airway sounds anteriorly.
   ABDOMEN: +BS, soft, and not tender.  Palpable kidney transplant in the
   RLQ,
   EXT: no cyanosis, edema. 2+ PT/DP bilat.  LUE AV fistula with palpable
   thrill.
   NEURO: CN II-XII grossly intact.  MAE. Normal strength and sensation in
   Bil L and UEs.
   Labs / Radiology
   237 K/uL
   9.8 g/dL
   106
   1.7
   20
   4.5
   67
   119
   143
   28.0 %
   5.5 K/uL
        [image002.jpg]
   Ca2+: 7.6, PO4-: 1.4, Mg: 2.2;  TBili 0.2, LDH 140, AST 24, ALT 14, Alk
   Phos 120; Alb 1.8
   N 78, B 0, L 17, M 5, E 0 Bas 0
   Hypochr: Normal, Anisocy 1+, Poiklo Normal, Macrocy 1+, Micro Normal,
   [**Name (NI) 5747**] Normal
   PT, PTT, INR Pending
   BCx2 pending
                             [**2156-9-15**]  11:06 PM
                             [**2156-9-16**]  05:00 AM
   WBC
   5.5
   Hct
   24.3
   28.0
   Plt
   237
   Assessment and Plan
   47yo gentleman with h/o HIV, ESRD [**1-17**] to HIV/HTN s/p cadaveric kidney
   transplant with acute rejection and collapsing glomerulopathy with
   nephrotic syndrome, and SVC syndrome s/p Left BCL stent and recent h/o
   RUE DVTs on ASA and plavix with upper GI bleed transferred to the ICU
   in the setting of ongoing melena and 10 point Hct drop.
   # GI Bleed:
   Pt continued to have melenotic stoolsx2 ON, sinus tachycardia from
   dropped from 110-13-
s to 100
s (baseline HR is 90-100), diaphoresis.
   s/p 2 unit pRBCs ON with total of 4 units. HCT increasing from
   16
24.3
28.0. D/w GI with recs this am as described below.
   - Appreciate GI c/s; per GI, will check HCT at 7am and if same or lower
   than 28.0 we will give 1unit pRBC; and if higher, we will  not give
   unit with EGD to follow around 9am
   - continue NS IV fluid boluses as needed for tachycardia
   - IV pantoprazole gtt
   - monitor on tele
   - patient has been typed and crossed for 2units
   - currently has 2 right-sided 20 gauge PIVs:
   # Respiratory status:
   02 sats decreased to low 90
s and patient felt SOB on RA ON, started on
   2L NC and sating in high 90
s yet still diaphoretic, cough, and SOB
   with crackles on exam and interstitial fullness R>L. Etiologies include
   infectious process (considering temp, immunosuppression), pulm edema
   (considering recent IVF, pRBCs), and PE (considering ?hypercoag state
   with past DVTs).
   - check CXR and monitor respiratory status with IV hydration
   -Continue 2LNC O2
   # HTN:
   Patient's SBP elevated 150s-180s as holding anti-hypertensives
   secondary to possible hypotension due to hypovolemia.
   - hold all anti hypertensives during acute bleed
   # ESRD s/p R renal transplant with nephrotic syndrome and collapsing
   GN- Baseline Cr 1.9-2.4, current Cr 1.7; adequate UOP overnight.
   - continue cellcept (mycophenolate mofetil), prednisone, tacrolimus
   (Prograf) once taking PO meds again
   - Check prograf levels
   - hold ASA and plavix given acute GI bleed
   -follow lytes and urine output
   # HIV/AIDS:
   -will check CD 4 count and viral load
   -Continue Combivir (Lamivudine-Zidovudine), efavirenz, and abacavir
   when taking PO meds
   continue dapsone and azithromycin prophylaxis
   # h/o SVC syndrome s/p L BCL stent and h/o RUE DVTs: no s/s of SVC
   syndrome upon admission, RUE DVT diagnosed in [**6-22**], on Plavix and ASA
   -Holding ASA and Plavix [**1-17**] to GIB
   -Consider bilateral UE US to evaluate patency of vessels  in case of
   need for central IV access
   # Depression:
   - continue mirtazipine
   - social work consult
   # FEN:  strictly NPO
   # PPX: ppi IV BID, pneumoboots
   # ACCESS: 2 x 20 gauge PIV's, consider additional access as above.
   # CODE: Full
   # CONTACT: Pt or Wife- [**Name (NI) 955**] [**Name (NI) **] [**Telephone/Fax (1) 5744**] or [**Telephone/Fax (1) 5745**].
   # DISPO:  MICU for now
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2156-9-15**] 09:18 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2156-09-16 09:09:00 Physician Attending Progress Note
Chief Complaint: GI bleed
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI: 47 yr old man with HIV ESRD and GI bleed
   24 Hour Events:
 EKG - At [**2156-9-15**] 10:30 PM
 BLOOD CULTURED - At [**2156-9-16**] 05:00 AM
 BLOOD CULTURED - At [**2156-9-16**] 05:10 AM
   Overnight recurrent melena, and this AM hemetemesis- s/p 4 U PRBC
   Allergies:
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Hives;
   Aspirin
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Pantoprazole (Protonix) - 8 mg/hour
   Other ICU medications:
   Morphine Sulfate - [**2156-9-16**] 03:15 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fever
   Heme / Lymph: Anemia
   Flowsheet Data as of  [**2156-9-16**] 08:47 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.3
   Tcurrent: 37.4
C (99.3
   HR: 106 (106 - 123) bpm
   BP: 174/79(100) {158/75(92) - 222/100(118)} mmHg
   RR: 13 (12 - 22) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 61 kg (admission): 61 kg
   Height: 69 Inch
           Total In:
                                                                  2,357 mL
                                                                    838 mL
   PO:
           TF:
   IVF:
                                                                    205 mL
                                                                     88 mL
   Blood products:
                                                                    277 mL
                                                                    750 mL
   Total out:
                                                                    625 mL
                                                                    800 mL
   Urine:
                                                                    225 mL
                                                                    600 mL
   NG:
   200 mL
   Stool:
   Drains:
   Balance:
                                                                  1,732 mL
                                                                     38 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: 7.36/32/96.[**Numeric Identifier 244**]/20/-6
   Physical Examination
   Gen: young man lying in bed, NAD< withdrawn, minimally answering
   questions
   HEENT: o/p dry
   CV: tachy RR
   Chest: bibasilar rales
   Abd: soft NT +BS RLQ palp kidney Tx
   Ext: thrill LUE fistula
   Labs / Radiology
   9.8 g/dL
   237 K/uL
   106 mg/dL
   1.7 mg/dL
   20 mEq/L
   4.5 mEq/L
   67 mg/dL
   119 mEq/L
   143 mEq/L
   30
   5.5 K/uL
        [image002.jpg]
                             [**2156-9-15**]  11:06 PM
                             [**2156-9-16**]  05:00 AM
                             [**2156-9-16**]  07:41 AM
   WBC
   5.5
   Hct
   24.3
   28.0
   30
   Plt
   237
   Cr
   1.7
   TCO2
   19
   Glucose
   106
   Other labs: PT / PTT / INR:13.5/25.9/1.2, ALT / AST:14/24, Alk Phos / T
   Bili:120/0.2, Differential-Neuts:78.0 %, Band:0.0 %, Lymph:17.0 %,
   Mono:5.0 %, Eos:0.0 %, Lactic Acid:1.3 mmol/L, Albumin:1.8 g/dL,
   LDH:140 IU/L, Ca++:7.6 mg/dL, Mg++:1.4 mg/dL, PO4:2.2 mg/dL
   Assessment and Plan
   47 year old man with GI bleed, of presumed upper origin, on plavix and
   ASA.  Has a history of PUD as well as LGIB in the past.
   1. GIB - has 3 20 gauge IVs.  Will place fem cordis if need further
   access. For EGD this IV PPI drip.  Hold ASA/plavix. s/p 4 U PRBC
 goal
   HCT 26
 repeat q4-6 hours today until stabilizes
   2. HTN - hold meds for now.  If BP remain over 160
 will use Hydral IV
   for acute but reversible BP control.
   3. Renal transplant - continue immunosuppresants.  No need for stress
   dose steroids right now.
   4. HIV - continue antiretrovirals, prophylactic meds once he is able to
   take PO meds
   5. Depression - continue antidepressants once able to take PO meds
   ICU Care
   Nutrition: NPO for EGD
   Glycemic Control:
   Lines: 20 Gauge - [**2156-9-16**] 06:30 AM
   Prophylaxis:
   DVT: boots
   Stress ulcer: PPI
   Communication:  with pt
   [**Name (NI) 66**] status: Full code
   Disposition :ICU
   Total time spent: 35

2156-09-17 07:45:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   EGD ([**9-16**]): GI performed EGD; showed duodenal ulcer without active
   bleeding, erosive esophagitis.
   Hematemesis: Episodex1 of projectile vomiting at 2330, dark brown,
   gastrocult +, tachcardic to 130-140's and SBP elevated to 170's; HCT at
   30. D5W started, Protonix IV dose given, Zofran given; GI aware and rec
   to keep NPO for am repeat EGD.
   GIB: Continues to have loose, dark green; Guaiac pos.
   EGD ([**9-17**]): Repeat bedside EGD this am showed bleeding ulcer not seen
   yest, injected and cauterized to achieve hemostasis.
   History obtained from Interpreter
   Allergies:
   History obtained from InterpreterBactrim (Oral)
   (Sulfamethoxazole/Trimethoprim)
   Hives;
   Aspirin
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Midazolam (Versed) - [**2156-9-16**] 10:00 AM
   Fentanyl - [**2156-9-16**] 10:00 AM
   Hydralazine - [**2156-9-16**] 12:30 PM
   Pantoprazole (Protonix) - [**2156-9-17**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Cardiovascular: No(t) Chest pain, No(t) Palpitations
   Respiratory: No(t) Dyspnea
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, Emesis
   Flowsheet Data as of  [**2156-9-17**] 07:45 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.3
   Tcurrent: 36.6
C (97.9
   HR: 116 (109 - 135) bpm
   BP: 151/71(92) {119/62(79) - 179/100(115)} mmHg
   RR: 26 (9 - 26) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 61 kg (admission): 61 kg
   Height: 69 Inch
             Total In:
                                                                  1,065 mL
                                                                    181 mL
   PO:
                                                                    100 mL
             TF:
   IVF:
                                                                    215 mL
                                                                    181 mL
   Blood products:
                                                                    750 mL
   Total out:
                                                                  2,500 mL
                                                                    350 mL
   Urine:
                                                                  1,800 mL
                                                                    350 mL
   NG:
                                                                    700 mL
   Stool:
   Drains:
   Balance:
                                                                 -1,435 mL
                                                                   -169 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula SL
   SpO2: 100%
   ABG: 7.37/31/122//-5
   Physical Examination
   GENERAL: Pale and diaphoretic, depressed, did not speak, NAD.
   HEENT: MMM, EOMI, PERRL
   NECK: No bruits or palpable thyroid
   CARDIAC:  Regular tachycardia, no MMG
   LUNG:  transmitted upper airway sounds anteriorly, faint crackles on R
   base.
   ABDOMEN: +BS, soft, NTND.  Palpable kidney transplant in the RLQ
   EXT: no cyanosis, edema.  2+ PT/DP bilat.  LUE AV fistula with palpable
   thrill.
   NEURO: CN II-XII grossly intact.  MAE. Normal strength and sensation in
   Bil L and UEs.
   Labs / Radiology
   265 K/uL
   7.1 g/dL
   158 mg/dL
   1.9 mg/dL
   20 mEq/L
   4.5 mEq/L
   79 mg/dL
   123 mEq/L
   147 mEq/L
   20
   5.5 K/uL
        [image002.jpg] Prograf 7.2
                             [**2156-9-15**]  11:06 PM
                             [**2156-9-16**]  05:00 AM
                             [**2156-9-16**]  07:41 AM
                             [**2156-9-16**]  12:59 PM
                             [**2156-9-16**]  11:44 PM
   WBC
   5.5
   Hct
   24.3
   28.0
   30
   33
   30
   Plt
   237
   Cr
   1.7
   TCO2
   19
   19
   19
   Glucose
   106
   Other labs: PT / PTT / INR:14.1/25.4/1.2, ALT / AST:147/117, Alk Phos /
   T Bili:138/- , LDH:183 IU/L, Ca++:8.4 mg/dL, Mg++:1.4 mg/dL, PO4:2.2
   mg/dL
   Assessment and Plan
   47yo gentleman with h/o HIV, ESRD s/p cadaveric kidney transplant, and
   SVC syndrome previously on ASA and plavix, admitted with upper GI
   bleed.
   #GI Bleed:
   Continued to have hematemesis and melenotic stools ON, sinus
   tachycardia in 100-120
s (baseline HR is 90-100), with 10pt HCT drop
   from 30
20 ON.  EGD in am stabilized active bleeding, currently
   receiving pRBCx2units.
   - Appreciate GI recs.
   - Will reassess HCT post-transfusion and will transfuse to keep HCT
   >25.
   - continue NS IV fluid boluses as needed for tachycardia
   - IV pantoprazole 8mg/hr gtt
   - monitor on tele
   - patient has been typed and crossed for total 6units
   - currently has 3 right-sided 20 gauge PIVs.
   - If decompensates, would place femoral Cordis given h/o SVC syndrome
   # Respiratory status:
   Stable on 2L NC, sating in high 90
s, faint crackles on R. Etiology
   most likely pulm edema (secondary to IVR/pRBCs), yet considering
   infectious process (considering temp, immunosuppression).
   - check CXR in am [**9-18**] and monitor respiratory status with IV hydration
   -Continue 2LNC O2
   # HTN:
   Patient's SBP elevated 170
s ON secondary to anxiety during emesis
   episode with continuing elevated SBP.
   -          hold all anti hypertensives during acute bleed
   -          will provide anti-hypertensives (eg: hydralazine) PRN
   # ESRD s/p R renal transplant. Appreciate renal recs.
   - Baseline Cr 1.9-2.4, current Cr stable at 1.9 adequate UOP overnight.
   - continue cellcept (mycophenolate mofetil) and tacrolimus (Prograf);
   will decrease hydrocortisone from 50mg IV q6h to 25mg IV q6h per renal
   and switch to prednisone 5mg qday tomorrow.
   - Will check tacro level in am prior to dose
   - hold ASA and plavix given acute GI bleed
   -follow lytes and urine output
   #Elevated Liver Enzymes: Etiologies in today
s mildly elevated LFTs
   include medication induced (eg: dapsone) vs infection (eg: viral;
   unlikely as LFTs not chronically or significantly elevated).
   -Will follow LFTs daily.
   # HIV/AIDS:
   -Continue Combivir (Lamivudine-Zidovudine), efavirenz, and abacavir
   -continue dapsone and azithromycin prophylaxis
   # h/o SVC syndrome s/p L BCL stent and h/o RUE DVTs: no s/s of SVC
   syndrome upon admission, RUE DVT diagnosed in [**6-22**], on Plavix and ASA
   before admission
   -Holding ASA and Plavix [**1-17**] to GIB
   -Will discuss with IR with regards to starting ASA/Plavix
   # Depression: Affect continues to be very flat.
   - continue mirtazipine
   - social work consult
   # FEN:  Currently NPO, will advance to clears in pm
   # PPX: ppi IV BID, pneumoboots
   # ACCESS: 3 x 20 gauge PIV's, consider additional access as above as
   needed.
   # CODE: Full
   # CONTACT: Pt or Wife- [**Name (NI) 955**] [**Name (NI) **] [**Telephone/Fax (1) 5744**] or [**Telephone/Fax (1) 5745**].
   # DISPO:  MICU care for now
   [**First Name8 (NamePattern2) 34**] [**Last Name (NamePattern1) 5783**], MS IV
   Agree with excellent MS IV note above.  Interviewed and examined
   patient.  Large ulcer identified on EGD this AM and cauterized.
   Receiving 2 units PRBCs and will recheck Hct in PM.
   [**First Name8 (NamePattern2) 361**] [**Last Name (NamePattern1) 512**], MD

2156-09-17 10:27:00 Physician Attending Progress Note
Chief Complaint: GI bleed
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   47 yr old with HIV admitted with brisk duodenal blled
   24 Hour Events:
   EGD yest with duodenal ulcer
   Recurrent hemetemesis last PM
   This AM hemetemesis again and HCT drop from 30 to 20.
   HR 140's but BP 160/90
   Getting 2 U PRBC and GI at bedside to scope
   Allergies:
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Hives;
   Aspirin
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Hydralazine - [**2156-9-16**] 12:30 PM
   Pantoprazole (Protonix) - [**2156-9-17**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Gastrointestinal: Emesis
   Heme / Lymph: Anemia
   Flowsheet Data as of  [**2156-9-17**] 10:26 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 36.4
C (97.6
   HR: 120 (109 - 135) bpm
   BP: 163/83(101) {119/58(79) - 179/100(115)} mmHg
   RR: 17 (9 - 26) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 61 kg (admission): 61 kg
   Height: 69 Inch
             Total In:
                                                                  1,065 mL
                                                                    209 mL
   PO:
                                                                    100 mL
             TF:
   IVF:
                                                                    215 mL
                                                                    209 mL
   Blood products:
                                                                    750 mL
   Total out:
                                                                  2,500 mL
                                                                    550 mL
   Urine:
                                                                  1,800 mL
                                                                    550 mL
   NG:
                                                                    700 mL
   Stool:
   Drains:
   Balance:
                                                                 -1,435 mL
                                                                   -341 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: 7.37/31/122/20/-5
   Physical Examination
   Gen: lying in bed, conversant
   HEENT o/p dried blood
   CV: [**Last Name (un) 1306**] RR
   Chest: CTA ant
   ABd: soft NT +BS
   Ext: no edema
   Neuro: able to answer questions, moving all ext, sitting up
   Labs / Radiology
   7.1 g/dL
   265 K/uL
   158 mg/dL
   1.9 mg/dL
   20 mEq/L
   4.5 mEq/L
   79 mg/dL
   123 mEq/L
   147 mEq/L
   20.9 %
   5.5 K/uL
        [image002.jpg]
                             [**2156-9-15**]  11:06 PM
                             [**2156-9-16**]  05:00 AM
                             [**2156-9-16**]  07:41 AM
                             [**2156-9-16**]  12:59 PM
                             [**2156-9-16**]  11:44 PM
                             [**2156-9-17**]  09:01 AM
   WBC
   5.5
   5.5
   Hct
   24.3
   28.0
   30
   33
   30
   20.9
   Plt
   237
   265
   Cr
   1.7
   1.9
   TCO2
   19
   19
   19
   Glucose
   106
   158
   Other labs: PT / PTT / INR:14.1/25.4/1.2, ALT / AST:117/147, Alk Phos /
   T Bili:138/0.2, Differential-Neuts:78.0 %, Band:0.0 %, Lymph:17.0 %,
   Mono:5.0 %, Eos:0.0 %, Lactic Acid:2.4 mmol/L, Albumin:1.8 g/dL,
   LDH:183 IU/L, Ca++:8.4 mg/dL, Mg++:1.4 mg/dL, PO4:2.2 mg/dL
   Assessment and Plan
 GASTROINTESTINAL BLEED, UPPER (MELENA, GI BLEED, GIB)
 HYPERTENSION, BENIGN
 DEPRESSION
   47 year old man with GI bleed, of presumed upper origin, on plavix and
   ASA.  Has a history of PUD as well as LGIB in the past.
   Now acutely rebleeding this AM with hemetemesis, melena, profound
   tachycardia and 10 pt HCT drop
   1. GIB
 Duodenal Ulcer now rebleeding
 has #3 20 gauge IVs.  Will
   place fem cordis if needed further access. For repeat EGD this AM to
   see if can BICAP or inject IV PPI drip. Give 2 U PRBC stat, trend HCT
   q6 hrs.
   Hold ASA and plavix
   2. HTN - hold meds for now with active bleeding
   3. Renal transplant - continue immunosuppresants.  No need for stress
   dose steroids right now.
   4. HIV - continue antiretrovirals, prophylactic meds once he is able to
   take PO meds
   5. Depression - continue antidepressants once able to take PO meds
   ICU Care
   Nutrition: npo for egd
   Glycemic Control:
   Lines:
   20 Gauge - [**2156-9-16**] 06:30 AM
   Prophylaxis:
   DVT: boots
   Stress ulcer: IV ppi
   Communication:  wife
   [**Name (NI) 66**] status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2156-09-18 07:39:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 ENDOSCOPY - At [**2156-9-17**] 10:30 AM; bleeding ulcer - injected and
   cauterized
   # GIB:  HCT 27-->22 at 0100, pt given 2 units of pRBCs (total of 7units
   since admission). Emesis- 0400 today, 200cc of light-med brown emesis,
   guaiac positive, zofran given; melena-continues to have guaiac pos
   stools
   #Access: lost 1 of 3 RUE PIVs, 1 other is
leaking
 per NSG
   Allergies:
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Hives;
   Aspirin
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Pantoprazole (Protonix) - 8 mg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2156-9-17**] 10:30 AM
   Midazolam (Versed) - [**2156-9-17**] 11:30 AM
   Fentanyl - [**2156-9-17**] 11:30 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever, no lightheadedness or dizziness
   Ear, Nose, Throat: dry mouth
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, Tachycardia
   Respiratory: No(t) Cough, No(t) Dyspnea
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, Emesis
   Flowsheet Data as of  [**2156-9-18**] 07:39 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.6
   Tcurrent: 36.3
C (97.3
   HR: 113 (112 - 134) bpm
   BP: 142/75(89) {126/64(78) - 185/95(110)} mmHg
   RR: 16 (12 - 26) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 61 kg (admission): 61 kg
   Height: 69 Inch
           Total In:
                                                                  1,585 mL
                                                                    828 mL
   PO:
                                                                    360 mL
                                                                    260 mL
   TF:
   IVF:
                                                                    475 mL
                                                                     76 mL
   Blood products:
                                                                    750 mL
                                                                    492 mL
   Total out:
                                                                  1,225 mL
                                                                    600 mL
   Urine:
                                                                  1,225 mL
                                                                    400 mL
   NG:
   200 mL
   Stool:
   Drains:
   Balance:
                                                                    360 mL
                                                                    230 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 100%
   ABG: ///20/
   Physical Examination
   GENERAL: Pale, depressed, sleeping, min speaking, NAD.
   HEENT: MMM, EOMI, PERRL, pale conjunctiva
   NECK: supple
   CARDIAC:  Regular tachycardia, no MRG
   LUNG:  CTAB anteriorly, pt refused to sit forward for post exam
   ABDOMEN: +BS, soft, NTND.  Palpable kidney transplant in the RLQ
   EXT: no cyanosis, edema.  2+ PT/DP bilat.  LUE AV fistula with palpable
   thrill.
   NEURO: CN II-XII grossly intact.  MAE.
   Labs / Radiology
   265 K/uL
   7.1 g/dL
   158 mg/dL
   1.9 mg/dL
   20 mEq/L
   4.5 mEq/L
   79 mg/dL
   123 mEq/L
   147 mEq/L
   22.2 %
   5.5 K/uL
        [image002.jpg] No New Labs (last lab=HCT of 22.2 at 0100 as unable
   to obtain IV sample).
                             [**2156-9-15**]  11:06 PM
                             [**2156-9-16**]  05:00 AM
                             [**2156-9-16**]  07:41 AM
                             [**2156-9-16**]  12:59 PM
                             [**2156-9-16**]  11:44 PM
                             [**2156-9-17**]  09:01 AM
                             [**2156-9-17**]  03:30 PM
                             [**2156-9-18**]  01:00 AM
   WBC
   5.5
   5.5
   Hct
   24.3
   28.0
   30
   33
   30
   20.9
   27.5
   22.2
   Plt
   237
   265
   Cr
   1.7
   1.9
   TCO2
   19
   19
   19
   Glucose
   106
   158
   Other labs: PT / PTT / INR:14.1/25.4/1.2, ALT / AST:117/147, Alk Phos /
   T Bili:138/0.2, Differential-Neuts:78.0 %, Band:0.0 %, Lymph:17.0 %,
   Mono:5.0 %, Eos:0.0 %, Lactic Acid:2.4 mmol/L, Albumin:1.8 g/dL,
   LDH:183 IU/L, Ca++:8.4 mg/dL, Mg++:1.4 mg/dL, PO4:2.2 mg/dL
   Assessment and Plan
   47yo gentleman with h/o HIV, ESRD s/p cadaveric kidney transplant, and
   SVC syndrome previously on ASA and plavix, admitted with upper GI
   bleed.
   #GI Bleed:
   s/p EGD with cauterization/injection of active bleeding ulcer;
   continued to have Hematemesis/melena O/N, sinus tachycardia in
   100-130
s (baseline HR is 90-100), with 5pt HCT drop from 27
22 O/N.
   s/p 2units RBCs O/N without issue. Decreasing IV access.
   - Appreciate GI recs. Will obtain post-transfusion HCT to assess for
   active bleeding and d/w GI regarding repeat EGD if needed.
   - Will reassess HCT post-transfusion and will transfuse to keep HCT
   >25.
   - IV pantoprazole 8mg/hr gtt
   - monitor on tele
   - currently has 2 right-sided 20 gauge PIVs; will place femoral
   Advanced Vascular Access line given decreasing IV access
   - appreciate surgery input
   # Respiratory status:
   Stable on 2L NC, sating in high 90
s. Etiology most likely pulm edema
   (secondary to IVR/pRBCs), yet considering infectious process
   (considering temp, immunosuppression).
   - monitor respiratory status with careful IV hydration
   -Continue 2LNC O2
   # HTN:
   Patient's SBP continues to remain elevated (up to 160
s) O/N
   - hold all anti hypertensives during acute bleed
   - will provide anti-hypertensives (eg: hydralazine) PRN
   # ESRD s/p R renal transplant. Appreciate renal recs.
   - Baseline Cr 1.9-2.4, current Cr stable at 1.9 adequate UOP overnight.
   - continue cellcept (mycophenolate mofetil) and tacrolimus (Prograf);
   will provide Solumedrol 20mg IV q12hr.
   - f/u tacro level today prior to dose
   - hold ASA and plavix given acute GI bleed; waiting for IR recs
   (emailed IR [**9-17**] for recs)
   -follow lytes and urine output
   #Elevated Liver Enzymes: Continue to be mildly elevated LFTs; likely
   medication induced (eg: dapsone) vs ischemia (decreased HCT and O2
   delivery) vs infection (eg: viral; unlikely as LFTs not chronically or
   significantly elevated).
   -f/u with LFTs tomorrow.
   # HIV/AIDS:
   -Continue Combivir (Lamivudine-Zidovudine), efavirenz, and abacavir
   -continue dapsone and azithromycin prophylaxis
   # h/o SVC syndrome s/p L BCL stent and h/o RUE DVTs: no s/s of SVC
   syndrome upon admission, RUE DVT diagnosed in [**6-22**], on Plavix and ASA
   before admission
   -Holding ASA and Plavix [**1-17**] to GIB;
   -Will discuss with IR with regards to starting ASA/Plavix
   # Depression: Affect continues to be very flat.
   - continue mirtazipine
   - social work consult
   # FEN:  NPO for possible EGD/GI intervention; appreciate nutrition
   recs-if no advance in diet in 48, [**Street Address(1) 5798**].
   # PPX: ppi IV BID, pneumoboots
   # ACCESS: 2 x 20 gauge PIV's, will place femoral Trauma line on left
   side given right sided kidney transplant.
   # CODE: Full
   # CONTACT: Pt or Wife- [**Name (NI) 955**] [**Name (NI) **] [**Telephone/Fax (1) 5744**] or [**Telephone/Fax (1) 5745**].
   # DISPO:  MICU care for now
   [**First Name8 (NamePattern2) 34**] [**Last Name (NamePattern1) 5783**], MS IV
   Agree with excellent MS IV note above.  Examined patient on rounds.
   Obtaining trauma line and appreciate GI and surgery recs.  Follow Hct
   and vital signs closely.
   [**First Name8 (NamePattern2) 361**] [**Last Name (NamePattern1) 512**], MD

2156-09-18 12:40:00 Physician Attending Progress Note
Chief Complaint: GI bleed
   HPI:
   24 Hour Events:
 ENDOSCOPY - At [**2156-9-17**] 10:30 AM
   bleeding ulcer - injected and cauterized
   Transfused 4u PRBCs total.
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Hives;
   Aspirin
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Pantoprazole (Protonix) - 8 mg/hour
   Other ICU medications:
   Other medications:
   HAART, dapsone, azithro, NaHCO3, MVI, mirtraz, cellcept, nystatin, PPI,
   SQI, pred 5
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2156-9-18**] 12:33 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.6
   Tcurrent: 37.2
C (98.9
   HR: 114 (112 - 134) bpm
   BP: 139/76(90) {125/63(76) - 185/99(113)} mmHg
   RR: 19 (12 - 26) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 58.7 kg (admission): 61 kg
   Height: 69 Inch
           Total In:
                                                                  1,585 mL
                                                                  1,665 mL
   PO:
                                                                    360 mL
                                                                    620 mL
   TF:
   IVF:
                                                                    475 mL
                                                                    295 mL
   Blood products:
                                                                    750 mL
                                                                    750 mL
   Total out:
                                                                  1,225 mL
                                                                  1,250 mL
   Urine:
                                                                  1,225 mL
                                                                  1,050 mL
   NG:
   200 mL
   Stool:
   Drains:
   Balance:
                                                                    360 mL
                                                                    417 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 100%
   ABG: ////
   Physical Examination
   Comfortable
   Cor is regular
   Lungs are clear
   Abdomen is soft with a palpable graft
   Extremities without edema
   Labs / Radiology
   7.1 g/dL
   265 K/uL
   158 mg/dL
   1.9 mg/dL
   20 mEq/L
   4.5 mEq/L
   79 mg/dL
   123 mEq/L
   147 mEq/L
   22.2 %
   5.5 K/uL
        [image002.jpg]
                             [**2156-9-15**]  11:06 PM
                             [**2156-9-16**]  05:00 AM
                             [**2156-9-16**]  07:41 AM
                             [**2156-9-16**]  12:59 PM
                             [**2156-9-16**]  11:44 PM
                             [**2156-9-17**]  09:01 AM
                             [**2156-9-17**]  03:30 PM
                             [**2156-9-18**]  01:00 AM
   WBC
   5.5
   5.5
   Hct
   24.3
   28.0
   30
   33
   30
   20.9
   27.5
   22.2
   Plt
   237
   265
   Cr
   1.7
   1.9
   TCO2
   19
   19
   19
   Glucose
   106
   158
   Other labs: PT / PTT / INR:14.1/25.4/1.2, ALT / AST:117/147, Alk Phos /
   T Bili:138/0.2, Differential-Neuts:78.0 %, Band:0.0 %, Lymph:17.0 %,
   Mono:5.0 %, Eos:0.0 %, Lactic Acid:2.4 mmol/L, Albumin:1.8 g/dL,
   LDH:183 IU/L, Ca++:8.4 mg/dL, Mg++:1.4 mg/dL, PO4:2.2 mg/dL
   Assessment and Plan
   47-year-old man with GI bleed from upper source.
   GI bleed
   Difficult venous access.  Check Hct now.  Transfuse if < 30 since
   actively bleeding
   Will try to get additional PIV.  Would not place [**Location (un) **] or Cordis at
   present, but would if rebleeds
   PPI
   GI following
   ASA/Plavix held while acutely bleeding
   Renal transplant
   Continue current immunosuppressants
   Increase steroids given acute stress and tachycardia
   HIV
   continue antiretrovirals; resume prophylactic meds once he is able to
   take PO meds
   Depression
   continue antidepressants once able to take PO meds
   ICU Care
   Nutrition: NPO
   Glycemic Control:
   Lines:
   20 Gauge - [**2156-9-16**] 12:00 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer:
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   Code status: Full code
   Disposition : ICU
   Total time spent: 35 min
   Patient is critically ill

2156-09-20 12:16:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 ULTRASOUND - At [**2156-9-19**] 02:00 PM
   Allergies:
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Hives;
   Aspirin
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2156-9-19**] 10:30 PM
   Insulin - Humalog - [**2156-9-19**] 11:40 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2156-9-20**] 12:07 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.9
C (98.4
   HR: 102 (93 - 114) bpm
   BP: 177/93(111) {146/80(99) - 190/106(133)} mmHg
   RR: 19 (15 - 25) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 59.7 kg (admission): 61 kg
   Height: 69 Inch
             Total In:
                                                                  1,864 mL
                                                                  1,030 mL
   PO:
                                                                    940 mL
                                                                    820 mL
   TF:
   IVF:
                                                                    731 mL
                                                                    210 mL
   Blood products:
                                                                    193 mL
   Total out:
                                                                    900 mL
                                                                    825 mL
   Urine:
                                                                    900 mL
                                                                    825 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    964 mL
                                                                    205 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 98%
   ABG: ///20/
   Physical Examination
   Gen: alert NAD
   Heent mild edema over right eyelid
   CV: RR
   Chest CTA
   Abd soft NT +BS
   Ext: left groin line in place CDI
   Labs / Radiology
   10.1 g/dL
   163 K/uL
   89 mg/dL
   2.2 mg/dL
   20 mEq/L
   3.6 mEq/L
   50 mg/dL
   114 mEq/L
   140 mEq/L
   28.7 %
   5.7 K/uL
        [image002.jpg]
                             [**2156-9-17**]  09:01 AM
                             [**2156-9-17**]  03:30 PM
                             [**2156-9-18**]  01:00 AM
                             [**2156-9-18**]  01:17 PM
                             [**2156-9-18**]  08:33 PM
                             [**2156-9-19**]  12:21 AM
                             [**2156-9-19**]  04:50 AM
                             [**2156-9-19**]  02:49 PM
                             [**2156-9-19**]  10:21 PM
                             [**2156-9-20**]  06:00 AM
   WBC
   5.5
   5.8
   5.2
   5.7
   Hct
   20.9
   27.5
   22.2
   25.7
   31.5
   32.4
   29.3
   29.3
   29.5
   28.7
   Plt
   265
   182
   168
   163
   Cr
   1.9
   2.0
   2.2
   2.2
   Glucose
   158
   123
   114
   89
   Other labs: PT / PTT / INR:17.6/29.5/1.6, ALT / AST:110/118, Alk Phos /
   T Bili:136/0.3, Differential-Neuts:78.0 %, Band:0.0 %, Lymph:17.0 %,
   Mono:5.0 %, Eos:0.0 %, Lactic Acid:2.4 mmol/L, Albumin:1.8 g/dL,
   LDH:176 IU/L, Ca++:8.5 mg/dL, Mg++:1.7 mg/dL, PO4:2.8 mg/dL
   Assessment and Plan
 GASTROINTESTINAL BLEED, UPPER (MELENA, GI BLEED, GIB)
 HYPERTENSION, BENIGN
 DEPRESSION
   47-year-old man with GI bleed from upper source.
   GI bleed - Duodenal Ulcer - Appears to have possibly slowed down.
   Transfuse if Hct falls below 26. Access if fem [**Location (un) **]. ASA/Plavix held
   while acutely bleeding. Appreciate GI and transplant surgery
s help
   Hx of SVC syndrome:  now with left-sided facial swelling but LUEXT US
   patent. Will resume asa/plavix once bleeding under control
 perhaps
   one after the other after 48 hrs stable HCT
   Renal transplant: Continue current immunosuppressants Dose per
   transplant Taper steroids a bit.
   HIV : continue antiretrovirals; resume prophylactic meds once he is
   able to take PO meds
   Depression  : continue antidepressants once able to take PO meds
   ICU Care
   Nutrition: advanced diet
   Glycemic Control:
   Lines:
   Trauma line - [**2156-9-18**] 02:54 PM
   Prophylaxis:
   DVT: boots
   Stress ulcer: IV PPI
   Communication:  with pt and wife
   [**Name (NI) 66**] status: Full code
   Disposition :ICU

2156-09-21 13:05:00 Physician Attending Progress Note
Chief Complaint: gi bleed
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Stable HCT
   Remains with trauma line
   po anti HTN started
   Allergies:
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Hives;
   Aspirin
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2156-9-20**] 10:35 PM
   Pantoprazole (Protonix) - [**2156-9-21**] 12:22 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2156-9-21**] 01:05 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 36.9
C (98.4
   HR: 93 (73 - 102) bpm
   BP: 150/102(113) {147/78(93) - 194/113(190)} mmHg
   RR: 21 (16 - 25) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 59.7 kg (admission): 61 kg
   Height: 69 Inch
             Total In:
                                                                  2,279 mL
                                                                    431 mL
   PO:
                                                                  1,900 mL
                                                                    240 mL
   TF:
   IVF:
                                                                    379 mL
                                                                    191 mL
   Blood products:
   Total out:
                                                                  1,875 mL
                                                                  1,500 mL
   Urine:
                                                                  1,875 mL
                                                                  1,500 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    404 mL
                                                                 -1,070 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 97%
   ABG: ///19/
   Physical Examination
   GenLying on bed complaining if hunger
   RR
   CTA
   ABd distended aoft NT
   Ext: left fem line in place, pain with palpation
   Neuro: non focal
   Labs / Radiology
   10.6 g/dL
   167 K/uL
   100 mg/dL
   2.0 mg/dL
   19 mEq/L
   3.2 mEq/L
   38 mg/dL
   113 mEq/L
   139 mEq/L
   29.4 %
   5.5 K/uL
        [image002.jpg]
                             [**2156-9-18**]  01:00 AM
                             [**2156-9-18**]  01:17 PM
                             [**2156-9-18**]  08:33 PM
                             [**2156-9-19**]  12:21 AM
                             [**2156-9-19**]  04:50 AM
                             [**2156-9-19**]  02:49 PM
                             [**2156-9-19**]  10:21 PM
                             [**2156-9-20**]  06:00 AM
                             [**2156-9-20**]  03:29 PM
                             [**2156-9-21**]  03:16 AM
   WBC
   5.8
   5.2
   5.7
   5.5
   Hct
   22.2
   25.7
   31.5
   32.4
   29.3
   29.3
   29.5
   28.7
   28.9
   29.4
   Plt
   182
   168
   163
   167
   Cr
   2.0
   2.2
   2.2
   2.0
   Glucose
   123
   114
   89
   100
   Other labs: PT / PTT / INR:17.6/29.5/1.6, ALT / AST:110/118, Alk Phos /
   T Bili:136/0.3, Differential-Neuts:78.0 %, Band:0.0 %, Lymph:17.0 %,
   Mono:5.0 %, Eos:0.0 %, Lactic Acid:2.4 mmol/L, Albumin:1.8 g/dL,
   LDH:176 IU/L, Ca++:8.6 mg/dL, Mg++:1.6 mg/dL, PO4:2.8 mg/dL
   Assessment and Plan
 GASTROINTESTINAL BLEED, UPPER (MELENA, GI BLEED, GIB)
 HYPERTENSION, BENIGN
 DEPRESSION
   47-year-old man with GI bleed from upper source.
   GI bleed - Duodenal Ulcer - Appears to have slowed down. Transfuse if
   Hct falls below 25. Access if fem [**Location (un) **]
 needs rewire to triple lumen
   while searching for other access (no PICC given SVC syndrome) .
   ASA/Plavix held while acutely bleeding. Appreciate GI and transplant
   surgery
s help
   Hx of SVC syndrome:  now with left-sided facial swelling but LUEXT US
   patent. Will resume asa/plavix once bleeding under control
 perhaps
   one after the other after 48 hrs stable HCT
   Renal transplant: Continue current immunosuppressants
 issues with
   getting Myfortic- see if wife can bring in or keep on IV [**Name (NI) 5873**].
   Check FK level. Dose per transplant Taper steroids a bit.
   HTN: Lisinopril, Norvasc, Metoprolol which we will increase and add
   Valsartan
   HIV: continue antiretrovirals; resume prophylactic meds once he is able
   to take PO meds
   Depression : continue antidepressants once able to take PO meds
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Trauma line - [**2156-9-18**] 02:54 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   Communication:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: